US07282501B2
Step B: 3-{4-[3-(4-Benzoyl-phenoxy)-propoxy]-2-cyclohexylcarbamoyloxymethyl-phenyl}-propionic acid
Trifluoroacetic acid (0.031 mL, 0.4 mmol) was added to a solution of 3-{4-[3-(4-benzoyl-phenoxy)-propoxy]-2-cyclohexylcarbamoyloxymethyl-phenyl}-propionic acid tert-butyl ester (50 mg, 0.08 mmol) in CH2Cl2 (5 mL) at room temperature. The reaction mixture was stirred overnight and concentrated under vacuum to give the title compound. (39 mg, 88%). 1H-NMR (200 MHz, CDCl3): δ 7.83-7.72 (m, 4H), 7.57-7.43 (m, 3H), 7.12 (d, 1H, J=8.6), 6.98-82 (m, 4H), 5.10 (s, 2H), 4.82 (br s, 1H), 4.23 (t, 2H, J=5.9), 4.15 (t, 2H, J=5.9), 3.57-3.36 (m, 1H), 2.94 (m, 2H), 2.62 (m, 2H), 2.28 (qn, 2H, J=5.9), 1.98-1.02 (m, 10H).

reactant | Trifluoroacetic acid | 0.4 mmol, 0.031 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-{4-[3-(4-benzoyl-phenoxy)-propoxy]-2-cyclohexylcarbamoyloxymethyl-phenyl}-propionic acid tert-butyl ester | 0.08 mmol, 50 mg | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCCOC1=CC=C(C=C1)C(C1=CC=CC=C1)=O)COC(NC1CCCCC1)=O)=O | C37H45NO7
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-{4-[3-(4-Benzoyl-phenoxy)-propoxy]-2-cyclohexylcarbamoyloxymethyl-phenyl}-propionic acid | C(C1=CC=CC=C1)(=O)C1=CC=C(OCCCOC2=CC(=C(C=C2)CCC(=O)O)COC(NC2CCCCC2)=O)C=C1 | C33H37NO7
